US08703951B2
4-Fluorobenzoylchloride (6.5 g, 41.0 mmol) was added dropwise to a stirring solution of benzothiazole (5.4 g, 40.0 mmol) in dichloromethane (40 mL) under argon atmosphere. A catalytic amount of AlCl3 and trimethylsilylcyanide (4.1 g, 42.0 mmol) were than added into the reaction mixture. After being stirred for 15 h at room temperature, the reaction mixture was evaporated to dryness in vacuo and the residue was triturated with ether to give 3-(4-fluorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile, 9.3 g (82%); mp 150-151° C. 1H NMR (DMSO-d6) δ 6.71 (1H, brs, C2-H), 6.85 (1H, s, ArH), 7.04-7.07 (1H, m, ArH), 7.12-7.16 (1H, m, ArH), 7.38-7.40 (2H, m, 2×ArH), 7.52-7.54 (1H, m, ArH), 7.64-7.67 (2H, m, 2×ArH). Anal. Calcd. for (C15H9FN2OS): C, 63.37; H, 3.19; N, 9.85; S, 11.28. Found: C, 63.02; H, 3.27; N, 9.81; S, 11.31.

reactant | 4-Fluorobenzoylchloride | 41.0 mmol, 6.5 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | benzothiazole | 40.0 mmol, 5.4 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trimethylsilylcyanide | 42.0 mmol, 4.1 g | C[Si](C)(C)C#N | C4H9NSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-(4-fluorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile | FC1=CC=C(C(=O)N2C(SC3=C2C=CC=C3)C#N)C=C1 | C15H9FN2OS
